US04772597
(1,3-Oxazolidin-2-on-4-yl)methyl Thioacetate
A solution of 2-oxo-1,3-oxazolidin-4-ylmethyl p-toluenesulfonate (1.22 g., 0.0045 mole) and tetrabutylammonium thioacetate (1.71 g, 0.0054 mole) in 75 ml. acetone was refluxed under nitrogen for 90 min. The reaction mixture was concentrated to dryness and the residue was chromatographed on silica gel (250 g). Elution with 4:1 ethyl acetate-hexane yielded 580 mg. of the title compound (75% yield). NMR (CDCl3): 2.38 (s, 3H); 3.06 (d, 2H); 3.84-4.67 (c, 3H); and 6.3 (b, 1H)ppm.

reactant | 2-oxo-1,3-oxazolidin-4-ylmethyl p-toluenesulfonate | 0.0045 mole, 1.22 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1NC(OC1)=O)C | C11H13NO5S
reactant | tetrabutylammonium thioacetate | 0.0054 mole, 1.71 g | C(C)(=S)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | CC(=O)C | C3H6O
product | (1,3-Oxazolidin-2-on-4-yl)methyl Thioacetate | 75% yield | C(C)(=S)OCC1NC(OC1)=O | C6H9NO3S
